Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Bacitracin / Atenolol / Percocet / Enalapril
 
Attending: ___.
 
Chief Complaint:
AMS, HTN, AOCRF  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F with history of CKD, dementia, HTN, DMII, presenting from 
clinic with worsening HTN, AMS, and AOCRF. Daughter reports that 
her mental status suddenly worsened 5 days ago. She can no 
longer dress herself, can on longer be left alone at night. She 
awakens confused and can't make it to the restroom on her own. 
These are new changes for her. She usually lives alone with help 
during the day. Patient is a poor historian, denies any 
problems, denies fevers, chills, dysuria, abd pain, bowel 
changes, SOB, chest pain, headache, visual changes. Daughter 
reports that patient has help during the day that assist in 
medication administration and so has not missed any doses of 
meds. She was seen at clinic today and found to have BP of 
202/70. Noted to have a nonfocal neuro exam.  
.  
In the ED, initial vitals were: 97.9, 75, 210/58, 12, 97%RA. She 
was noted to be AAOx0. She was given hydralazine 20 mg IV and 
zyprexa 5 mg IV x1. Patient was found to have 12 white cells on 
UA, was given a dose of macrobid ___ mg. Patient's CXR was 
without any evidence of pneumonia or CHF.  
.  
Currently, patient feels restless, is very confused. Son is in 
the room with her who tells me that her baseline mental status 
is about AAOx2, usually oriented to person and place. Sundowns 
at night time. Doesn't complete sentences all the time. She's 
had no recent falls, no new bruises. No dysuria, no urinary 
frequency. Reported to have been eating and drinking well, 
although decreased appetite as of lately  
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  
 
Past Medical History:
Hypertension  
Hypercholesterolemia  
Breast cancer, s/p right mastectomy  
Retinal detachment  
Glaucoma  
Colonic polyps  
H Pylor gastritis (___)  
Anemia  
DM2  
Cataract s/p surgery  
Former tobacco abuse, quit ___ after 50 pack-year  
Lumbar spinal stenosis  
PVD on left  
h/o RBBB  
Osteoporosis  
Basal cell carcinomas s/p removal  
Mitral regurgitation  
Colonic polyps  
h/o UGIB ___ to ulcer and gastritis, H.pylori positive, full  
treatment course completed  
NSTEMI in the setting of anemia and increased demand ___.  
Negative p-MIBI.  
E.coli urosepsis ___  
h/o multiple UTIs  

 
Social History:
___
Family History:
There is no family history of premature coronary artery disease  

or sudden death. Mother had colon cancer at ___ and died ___ of  
___ etiology. Father died "in his sleep" at age ___. No  
siblings.  

 
Physical Exam:
Admission exam:

VS - 98.1, 74, 145/73, 74, 20, 97%RA  
GENERAL - frail, NAD, AAOx0  
HEENT - blind in left eye, MMM, OP clear, no LAD  
NECK - supple, no JVD  
LUNGS - CTA b/l, no w/r/r  
HEART - S1S2, RRR, II/VI crescendo systolic murmur  
ABDOMEN - NABS, soft/NT/ND, no HSM, no rebound/guarding  
EXTREMITIES - venous stasis ulcers bilaterally, no e/c/c, 2+ 
peripheral pulses  
NEURO - awake, A&Ox0, CNs II-XII grossly intact, muscle strength 
4+/5 throughout, sensation grossly intact throughout. Nonfocal 
neuro exam.
 
Pertinent Results:
Admission labs:

___ 12:53PM BLOOD WBC-4.8 RBC-3.92* Hgb-10.9* Hct-33.0* 
MCV-84 MCH-
27.8 MCHC-32.9 RDW-14.9 Plt ___
___ 12:53PM BLOOD Neuts-58.5 ___ Monos-6.1 Eos-5.9* 
Baso-1.0
___ 12:53PM BLOOD Glucose-237* UreaN-22* Creat-1.5*# Na-141 
K-3.4 Cl-104 HCO3-26 AnGap-14
___ 04:50AM BLOOD Calcium-9.5 Phos-3.1 Mg-1.9
___ 05:25AM BLOOD VitB12-265 Folate-17.4
___ 05:25AM BLOOD TSH-3.3
___ 05:10AM BLOOD HBsAg-NEGATIVE
___ 05:10AM BLOOD HCV Ab-NEGATIVE

CT head:

Final Report 
INDICATION: Altered mental status. Evaluate for intracranial 
hemorrhage or 
stroke. 
  
TECHNIQUE: Contiguous axial images were obtained through the 
brain. No 
contrast was administered. 
  
COMPARISONS: None. 
  
FINDINGS: There is no evidence of hemorrhage, edema, masses, 
mass effect or 
infarction. The ventricles and sulci are prominent in size and 
configuration, 
consistent with age-related atrophy. There are periventricular 
white matter 
hypodensities consistent with chronic small-vessel ischemic 
disease. No 
fractures are identified. There is a small area of soft-tissue 
swelling in the 
right frontal region. The visualized portions of the paranasal 
sinuses, 
mastoid air cells, and middle ear canals are clear. 
  
IMPRESSION: No acute intracranial abnormality. 

STUDY: Three views of the right ankle ___. 
  
COMPARISON: None. 
  
INDICATION: Right ankle pain, question fracture. 
  
FINDINGS: Soft tissue swelling about the medial malleolus. No 
definite ankle 
effusion. Mild osteopenia. No dislocation. The mortise and 
syndesmosis are 
intact. Well-corticated ossific fragment is seen inferior to the 
medial 
malleolus, from prior avulsion fracture. Probable posttraumatic 
deformity of 
the distal fibula. No acute fracture identified. No dislocation. 
No 
significant degenerative changes. Small plantar spur. Posterior 
calcaneal 
enthesopathy. 
  
IMPRESSION: No acute fracture. 

Chest x-ray:
Final Report 
INDICATION: ___ woman with confusion. Assess for 
pneumonia or CHF. 
  
COMPARISON: Chest CT ___ and multiple prior chest 
radiographs, 
most recent of ___. 
  
FRONTAL AND LATERAL VIEWS OF THE CHEST: There is severe 
emphysema. Multiple 
small calcified granulomas are again seen scattered throughout 
the lungs 
bilaterally. No findings are present to suggest pneumonia. There 
is no pleural 
effusion or pneumothorax. The aorta is tortuous, stable. The 
heart size is 
normal.  
  
IMPRESSION: No evidence of pneumonia or CHF. Severe emphysema. 

 
Brief Hospital Course:
___ F with history of CKD, dementia, HTN, DMII, presenting from 
clinic with worsening hypertension, altered mental status and 
acute renal failure.

# Delirium - the patient was found to be delirious on admission. 
 Initial workup, including blood work, cultures and head CT scan 
was negative.  A paronychia of her right large toe was found 
which was drained; pain from the paronychia may have contributed 
to her initial delirium. Geriatrics was consulted, and the 
patient received supportive measures such as better pain 
control, a bowel regimen and attempts to preserve her sleep wake 
cycle.  She was agitated at times, and responded poorly to 
olanzapine but did improve with daily seroquel 6.25 at night, 
which was later increased to 12.5 to help improve her sleep/wake 
cycle.  A urinalysis was later re-checked which did demonstrate 
a urinary tract infection and she was treated with IV 
ceftriaxone for 3 days. Finally, her delirium might have been 
worsened by constipation, which was treated with disimpaction.

# Urinatry tract infection - treated as above.

# Hypertension - the patient had a blood pressure elevated with 
systolic pressures in the 200s at clinic prior to admission.  
She was continued on valsartan and amlodipine, and hydralazine 
10mg bid was added to her regimen, resulting in good blood 
pressure control.

# Diabetes - the patient was not on any oral anti-hyperglycemics 
on admission as her PCP had discontinued these 3 weeks prior.  
She was started on a humalog sliding scale and lantus.

#Acute renal failure - This resolved quickly with IV fluids. 

#Code status: The patient was confirmed to be DNR/DNI with the 
family.

#Transition of care issues: Geriatrics recommended discontinuing 
the rosuvastatin and omeprazole if they are not needed.  This 
should be discussed with the patient's primary care provider.
 
Medications on Admission:
gabapentin 300 mg qhs prn pain  
omeprazole 20 mg daily  
rosuvastatin 40 mg daily  
valsartan 320 mg daily  
aspirin 81 mg daily  
cholecalciferol 1,000 unit daily  
ferrous sulfate - dosage uncertain  
multivitamin 1 tablet daily  
omega-3 fatty acids-vitamin E 1,000 mg daily  
Lumigan - 1 drop to right eye qhs  

 
Discharge Medications:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
3. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. valsartan 160 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
5. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
6. rosuvastatin 5 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
7. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

8. hydralazine 10 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
9. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
10. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours).  
12. insulin glargine 100 unit/mL Cartridge Sig: Seven (7) units 
Subcutaneous at bedtime.  
13. insulin lispro 100 unit/mL Solution Sig: Sliding Scale 
Subcutaneous three times a day: BS 150-200 2 units, 201-250 3 
units, 251-300 4 units, 301-350 5 units, 351-400 6 units.  
14. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
packet PO DAILY (Daily) as needed for constipation.  
15. trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed for insomnia.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Urinary tract infection
Delirium

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital because ___ were confused and 
had a urinary tract infection.  We treated your urinary tract 
infection and ___ improved.  ___ also had an infection of your 
toe which we drained.  Your blood pressure was also elevated, 
and for this we changed your medications slightly.

Finally, your blood sugar was out of control when ___ came in.  
___ were started on insulin to help control your blood sugar.

The following medications were started:
Insulin Glargine 7U at night
hydralazine 10mg twice daily
trazodone 25mg qhs prn insomnia
 
Followup Instructions:
___